US09303165B2
4-Bromo-3-methyl-2-(2-nitroethyl)-N-tosylpyrrole (4-Ts)
Following a general procedure,50 a stirred mixture of 3-Ts (7.73 g, 28.5 mmol) in the form of a finely ground powder, potassium acetate (2.24 g, 22.8 mmol), methylamine hydrochloride (1.54 g, 22.8 mmol), and acetic acid (0.1 mL) in absolute ethanol (10 mL) was treated with nitromethane (4.0 mL, 78 mmol). The mixture was stirred for 2 h, whereupon water was added (100 mL) and the resulting yellow precipitate was filtered by vacuum filtration. The solid filtered material was washed with water (200 mL) followed by cold ethanol (˜100 mL, 0° C.) until the eluant was clear. The yellow filtered solid was dried overnight under high vacuum. The crude solid material was dissolved in dry THF (117 mL, distilled). The solution was cooled to −10° C. (internal temperature, using an acetone bath with a few pieces of dry ice) under argon. The solution was treated with 95% LiBH4 (0.64 g, 28 mmol) all at once under vigorous stirring. The reaction mixture was stirred for ˜15 min at −10° C., until all of the starting material disappeared (starting material: CH═CHNO2: d, J=13.6 Hz, 8.56 ppm; product: CH2CH2NO2: t, J=7.3 Hz, 4.54 ppm and 3.36 ppm), whereupon the reaction mixture was quenched by slowly adding a cold saturated aqueous NH4Cl solution (200 mL, 0° C.). The mixture was extracted with ethyl acetate (200 mL). The organic layer was washed with brine, dried (Na2SO4), and concentrated to a solid. The solid was dried under high vacuum for 2 h. The crude solid material was dissolved in 100 mL of 2-propanol by refluxing in a hot water bath. Upon cooling the solution to −10° C. the product crystallized. The mixture was vacuum-filtered, and the resulting light brown crystals were dried under high vacuum (9.03 g, 82%): mp 85° C.; 1H NMR δ 1.92 (s, 3H), 2.43 (s, 3H), 3.36 (t, J=7.3 Hz, 2H), 4.54 (t, J=7.3 Hz, 2H), 7.34 (d, J=8.4 Hz, 2H), 7.34 (s, 1H), 7.66 (d, J=8.4 Hz, 2H); 13C NMR δ 10.5, 21.9, 24.3, 74.3, 105.2, 121.7, 124.3, 124.9, 126.9, 130.6, 135.6, 146.0; ESI-MS obsd 387.0024, calcd 387.0009 [(M+H)+, M=C14H15BrN2O4S];

reactant | 4-Bromo-3-methyl-2-formyl-N-tosylpyrrole | 28.5 mmol, 7.73 g | BrC=1C(=C(N(C1)S(=O)(=O)C1=CC=C(C)C=C1)C=O)C | C13H12BrNO3S
reactant | potassium acetate | 22.8 mmol, 2.24 g | C(C)(=O)[O-].[K+]
reactant | methylamine hydrochloride | 22.8 mmol, 1.54 g | Cl.CN
reactant | nitromethane | 78 mmol, 4.0 mL | [N+](=O)([O-])C | CH3NO2
reactant | LiBH4 | 28 mmol, 0.64 g | [Li+].[BH4-]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
product | 4-Bromo-3-methyl-2-(2-nitroethyl)-N-tosylpyrrole | BrC=1C(=C(N(C1)S(=O)(=O)C1=CC=C(C)C=C1)CC[N+](=O)[O-])C | C14H15BrN2O4S
